US08536157B2
A solution of 3-fluoro-4-hydroxyacetophenone (0.061 g, 0.398 mmol), (benzo[c][1,2,5]oxadiazol-5-yl)methoxyamine hydrochloride (0.095 g, 0.470 mmol) and pyridine (0.13 ml, 1.61 mmol) in ethanol (5 ml) was stirred at reflux under nitrogen for 4 h and cooled to room temperature. The solution was concentrated to a pale yellow oil which was diluted with water. The resultant suspension was extracted with dichloromethane (×3). The combined organic phases were washed with water and brine, dried over magnesium sulphate, filtered and concentrated to an off-white solid. The crude product was purified by column chromatography (SiO2), eluting with 9:1 petrol/ethyl acetate, to give a pale beige solid which was further washed with petrol/dichloromethane to give 3′-fluoro-4′-hydroxyacetophenone-O-[(benzo[c][1,2,5]oxadiazol-5-yl)methyl]oxime (CP9-128) as a pale beige solid (0.098 g, 82%), m.p. 139-140°.

reactant | 3-fluoro-4-hydroxyacetophenone | 0.398 mmol, 0.061 g | CC(=O)C1=CC(=C(C=C1)O)F | C8H7FO2
reactant | (benzo[c][1,2,5]oxadiazol-5-yl)methoxyamine hydrochloride | 0.470 mmol, 0.095 g | Cl.N=1ON=C2C1C=CC(=C2)CON
reactant | pyridine | 1.61 mmol, 0.13 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3′-fluoro-4′-hydroxyacetophenone-O-[(benzo[c][1,2,5]oxadiazol-5-yl)methyl]oxime | 0.098 g, 82% | N=1ON=C2C1C=CC(=C2)CON=C(C)C2=CC(=C(C=C2)O)F | C15H12FN3O3
